US08802659B2
1-((6-((trans)-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methyl)-4-methylpyrrolidine-3-carboxylic acid
A solution of 6-(4-tert-Butyl-cyclohexyloxy)-naphthalene-2-carbaldehyde (140 mg, 0.46 mmol) and 4-methylpyrrolidine-3-carboxylic acid (60.1 mg, 0.465 mmol) in Ethanol (0.7 mL, 10 mmol) was heated to reflux for 2 h. The yellow solution was cooled to rt and Sodium cyanoborohydride (35.1 mg, 0.558 mmol) was added and was heated to reflux for 1 h. After cooled down to rt, DCM, water and citric acid were added along with some brine to clear up the layers. Concentration of the cloudy organic layer gave a precipitate that was dissolved in methanol and filtered before purification by preparative HPLC. 1H NMR (400 MHz, DMSO-d6) □ 7.81-7.98 (m, 3H), 7.53 (d, J=7.28 Hz, 1H), 7.42 (d, J=2.26 Hz, 1H), 7.17-7.25 (m, J=2.38, 8.91 Hz, 1H), 4.34-4.55 (m, 3H), 3.61 (br. s., 2H), 3.05 (br. s., 1H), 2.94 (d, J=5.52 Hz, 1H), 2.63-2.80 (m, 1H), 2.21 (d, J=10.54 Hz, 2H), 1.83 (d, J=12.05 Hz, 2H), 1.29-1.43 (m, 2H), 1.19-1.28 (m, 2H), 1.02-1.18 (m, 5H), 0.88 (s, 9H) [M+1]424.30.

reactant | 6-(4-tert-Butyl-cyclohexyloxy)-naphthalene-2-carbaldehyde | 0.46 mmol, 140 mg | C(C)(C)(C)C1CCC(CC1)OC=1C=C2C=CC(=CC2=CC1)C=O | C21H26O2
reactant | 4-methylpyrrolidine-3-carboxylic acid | 0.465 mmol, 60.1 mg | CC1C(CNC1)C(=O)O | C6H11NO2
reactant | Ethanol | 10 mmol, 0.7 mL | C(C)O | C2H6O
reactant | Sodium cyanoborohydride | 0.558 mmol, 35.1 mg | C(#N)[BH3-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | brine | [Cl-].[Na+].O
solvent | methanol | CO | CH4O
solvent | water | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1-((6-((trans)-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methyl)-4-methylpyrrolidine-3-carboxylic acid | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)CN1CC(C(C1)C)C(=O)O | C27H37NO3
